US06359138B1
(RS)-2-bromomethyl-2,3-dihydro-benzofuran-5-ylamine (410 mg, 1.80 mmol), methansulfonyl-chloride (206 mg, 1.8 mmol), Et3N (182 mg, 1.80 mmol) were dissolved in CH2Cl2 (50 ml) and stirred overnight at room temperature. Solvent was then evaporated and the residue was chromatographed over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2—MeOH (95:5) to provide (RS)-N-(2-bromomethyl-2,3-dihydro-benzofuran-5-yl)-methansulfonamide (516 mg, 94%) as an oil. MS: m/e=305.9 (M−H+)

reactant | (RS)-2-bromomethyl-2,3-dihydro-benzofuran-5-ylamine | 1.80 mmol, 410 mg | BrCC1OC2=C(C1)C=C(C=C2)N | C9H10BrNO
reactant | methansulfonyl-chloride | 1.8 mmol, 206 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 1.80 mmol, 182 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (RS)-N-(2-bromomethyl-2,3-dihydro-benzofuran-5-yl)-methansulfonamide | 516 mg, 94% | BrCC1OC2=C(C1)C=C(C=C2)NS(=O)(=O)C | C10H12BrNO3S
